datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([H:15])([H:16])[C:7]1([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:10],126.148
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[S:3])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][C:10]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6],20.2924
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:11])[H:10],23.4722
[C:0](=[O:1])([H:2])[H:3].[H:4]>>[C:0]([O:1])([H:2])([H:3])[H:4],49.7896
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18],69.4544
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11]1([H:16])[C:12]([H:17])=[C:13]([H:18])[C:14]([H:19])=[C:15]1[H:20]>>[C:0]1([H:5])([C:11]2([H:16])[C:12]([H:17])=[C:13]([H:18])[C:14]([H:19])=[C:15]2[H:20])[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10],36.4008
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:7])([H:5])[H:6]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([C:4]([H:14])[H:15])([H:11])[H:12])[H:7])([H:5])([H:6])[H:13],88.2824
[C:0](=[C:1]([O:2][O:3][H:13])[C:4](=[C:5]([H:14])[H:15])[C:6](=[C:7]([H:16])[H:17])[C:8]([C:9]([H:18])([H:19])[H:20])[C:10]([H:21])([H:22])[H:23])([H:11])[H:12]>>[C:0](=[C:1]1[O:2][C:8]([C:9]([H:18])([H:19])[H:20])([C:10]([H:21])([H:22])[H:23])[C:6](=[C:7]([H:16])[H:17])[C:4]1=[C:5]([H:14])[H:15])([H:11])[H:12].[O:3][H:13],48.116
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:18])[H:19])([O:7][O:8][H:17])[H:16])[H:12])([H:9])([H:10])[H:11],140.164
[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])([H:13])[H:14])[H:12])([H:10])[H:11].[O:7][O:8][H:9],125.9384
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:10]([C:9](=[C:8]([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20],61.1282
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15])[H:7])[H:6],13.5143
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:17](=[C:18]([H:20])[H:21])[H:19])[H:9])([H:7])[H:8],-1.21336
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],42.5094
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[O:36][O:37][H:38]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:33][O:36][O:37][H:38],59.99856
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][O:9][H:10],-4.200736
[N:0]([O:1])([H:2])[H:3].[O:4][H:5]>>[H:2][O:4][H:5].[N:0](=[O:1])[H:3],-4.97896
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[S:7]=[C:8]([C:9]([S:10][H:13])[H:12])[H:11]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[S:7])[H:11])([S:10][H:13])[H:12],93.3032
